US03953500
In 90 ml. of ethanol is dissolved 9.6 g. of ethyl 1-cyano-1,2,3,4-tetrahydro-5-naphthoate and a solution of 2.5 g. of sodium hydroxide in 90 ml. of water is added. The mixture is stirred under heating at 50°C for 3 hours, after which the ethanol is distilled off. Then, following the addition of 2N hydrochloric acid, the residue is extracted with chloroform. The organic layer is washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure and the crystalline residue is recrystallized from benzene. The described procedure gives 1-cyano-1,2,3,4-tetrahydro-5-naphthoic acid, melting point: 177°-179°C.

reactant | ethanol | C(C)O | C2H6O
reactant | ethyl 1-cyano-1,2,3,4-tetrahydro-5-naphthoate | C(#N)C1CCCC=2C(=CC=CC12)C(=O)OCC | C14H15NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-cyano-1,2,3,4-tetrahydro-5-naphthoic acid | C(#N)C1CCCC=2C(=CC=CC12)C(=O)O | C12H11NO2
